US08304577B2
Part B. t-Butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethylcarbamate
To a solution of t-butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-oxoethylcarbamate (80 mg, 0.238 mmol) in dichloroethane (1 mL) was added 1-methylpiperazine (0.032 mL, 0.286 mmol) followed by sodium triacetoxyborohydride (70.8 mg, 0.334 mmol). The mixture was stirred at room temperature for 3 h. Additional 1-methylpiperazine (0.064 mL, 0.572 mmol) and sodium triacetoxyborohydride (71 mg, 0.334 mmol) were added and the mixture was stirred at room temperature for 1 h. The reaction mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (5 mL). The aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (5 mL), dried over MgSO4, filtered and concentrated. The product, t-butyl 1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethylcarbamate, was used directly in the next step: LRMS (ESI) m/e 420.3 [(M+H)+, calcd for C24H42N3O3 420.3].

reactant | t-butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-oxoethylcarbamate | 0.238 mmol, 80 mg | CC(COC1=CC=C(C=C1)[C@H](C=O)NC(OC(C)(C)C)=O)CCC | C19H29NO4
reactant | 1-methylpiperazine | 0.286 mmol, 0.032 mL | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.334 mmol, 70.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methylpiperazine | 0.572 mmol, 0.064 mL | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.334 mmol, 71 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | t-Butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethylcarbamate | CC(COC1=CC=C(C=C1)[C@H](CN1CCN(CC1)C)NC(OC(C)(C)C)=O)CCC | C24H41N3O3
